US07981903B2
Step A/Intermediate B270: N,N-dimethyl-2-(6-methyl-7-nitro-3,4-dihydro-1(2H) quinolinyl)-2-oxoethanamine
To a bright orange solution of 6-methyl-7-nitro-1,2,3,4-tetrahydroquinoline (2 g, 10.41 mmol)—(see Achvlediani, R.; Natsvlishvili, M.; Baberkina, E.; Khachidze, M.; Abesadze, I.; Suvorov, N. Synthesis of 1H-pyrrolo[3,2-g]- and 1H-pyrrolo[2,3-g]quinoline. Izvestiya Akademii Nauk Gruzii, Seriya Khimicheskaya (1996), 22(1-4), 43-47.)—in THF (50 mL) was added K2CO3 (4.31 g, 31.2 mmol). The resulting mixture was cooled to 0° C. and was treated with bromoacetyl chloride (1.040 mL, 12.49 mmol) dropwise. The reaction mixture was stirred for 20 min. EtOAc (100 mL) and water (100 mL) were then added. The organic layer was dried (Na2SO4) and concentrated. The crude 1-(bromoacetyl)-6-methyl-7-nitro-1,2,3,4-tetrahydroquinoline (3.26 g, 10.41 mmol) was dissolved in THF (50mL). A 2M Me2NH solution in THF (50 mL) was added. The resulting slurry was filtered, the solids were rinsed with THF. The filtrate was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to afford as a yellow solid (2.09 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.81-1.97 (m, 2H), 2.24 (s, 6H), 2.47 (s, 3H), 2.80 (t, J=6.89 Hz, 2H), 3.25 (s, 2H), 3.68-6.85 (m, 2H), 7.29 (s, 1H), 8.54 (br s, 1H); ESIMS (M+H)+=278.40.

reactant | 6-methyl-7-nitro-1,2,3,4-tetrahydroquinoline | 10.41 mmol, 2 g | CC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C10H12N2O2
reactant | K2CO3 | 31.2 mmol, 4.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetyl chloride | 12.49 mmol, 1.040 mL | BrCC(=O)Cl | C2H2BrClO
reactant | 1-(bromoacetyl)-6-methyl-7-nitro-1,2,3,4-tetrahydroquinoline | 10.41 mmol, 3.26 g | BrCC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])C | C12H13BrN2O3
reactant | Me2NH | 2M | N(C)C | C2H7N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N,N-dimethyl-2-(6-methyl-7-nitro-3,4-dihydro-1(2H) quinolinyl)-2-oxoethanamine | 2.09 g, 72% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])C)C | C14H19N3O3
